US05198449
α-(4-Fluorophenyl)-N-(2-phenylethyl)-1-(phenylsulfonyl)-4-piperidinemethanimine
A mixture of 15.56 g (0.045 mol) of N-benzenesulfonyl-4-(p-fluorobenzoyl)-piperidine, 8.50 g (0.0702 mol) of phenethylamine and 0.20 g (0.0013 mol) of benzenesulfonic acid in 400 mL of toluene was heated at reflux for 111 hr. Water was removed from the reaction mixture with a Dean-Stark trap. The solvent was removed in vacuo, and the residue was partitioned between CH2Cl2 and dilute Na2CO3. The CH2Cl2 solution was dried (MgSO4), and the solvent was removed in vacuo. The residue was recrystallized from ether to give 18.32 g (90.5%) of title compound as a light tan solid, mp 123°-126° C.

reactant | N-benzenesulfonyl-4-(p-fluorobenzoyl)-piperidine | 0.045 mol, 15.56 g | C1(=CC=CC=C1)S(=O)(=O)N1CCC(CC1)C(C1=CC=C(C=C1)F)=O | C18H18FNO3S
reactant | phenethylamine | 0.0702 mol, 8.50 g | C(CC1=CC=CC=C1)N | C8H11N
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
catalyst | benzenesulfonic acid | 0.0013 mol, 0.20 g | C1(=CC=CC=C1)S(=O)(=O)O | C6H6O3S
product | α-(4-Fluorophenyl)-N-(2-phenylethyl)-1-(phenylsulfonyl)-4-piperidinemethanimine | 18.32 g, 90.5% | FC1=CC=C(C=C1)C(=NCCC1=CC=CC=C1)C1CCN(CC1)S(=O)(=O)C1=CC=CC=C1 | C26H27FN2O2S
